US08859534B2
1-[2-(2-Pyridyl)ethyl]piperazine
A solution of piperazine:2HCl:H2O (241 g, 1332 mmol) in water (245 mL) was heated at 60-70° C. Vinyl pyridine (38.0 g, 333 mmol) was slowly added during of 45-60 min at 60-70° C. Heating was continued for 45-60 min at 60-70° C. The reaction mixture was cooled to 20-25° C. The pH was slowly adjusted to 8.0-8.5 with a solution of aqueous sodium hydroxide (40.0% w/w) during 45-60 min at 20-30° C. The reaction mixture was washed with toluene (2×175 mL). The aqueous layer was slowly adjusted to pH 12.0-12.5 with a solution of aqueous NaOH (40.0% w/w) during 45-60 min at 20-30° C. and again washed with toluene (175 mL). The aqueous layer was extracted with n-butanol (2×210 mL). n-Butanol was removed under reduced pressure until the residual volume reached 100 mL. n-Butanol was swapped completely with xylene (2×210 mL) until the residual volume reached 100 mL. Xylene (35 mL) was added at 75-85° C. and then cooled to 20-25° C. The reaction solution was maintained for 1.0 h at 20-25° C. and then filtered through celite and the celite washed with xylene (35 mL). The combined xylene solution was used in the next step without isolation of the product.

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | Vinyl pyridine | 333 mmol, 38.0 g | C(=C)C1=NC=CC=C1 | C7H7N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 245 mL | O | H2O
solvent | H2O | 1332 mmol, 241 g | O | H2O
product | 1-[2-(2-Pyridyl)ethyl]piperazine | N1=C(C=CC=C1)CCN1CCNCC1 | C11H17N3
